US07531556B2
3-Pyridin-4-yl-isoxazol-5-ylamine:
To 3-oxo-3-pyridin-4-yl-propionitrile (2.0 g, 13.7 mmol) in 20 mL of ethanol was added hydroxylamine hydrochloride (0.75 g, 10.8 mmol) and the resulting solution was heated at 70° C. overnight. The resulting white precipitate was collected and the solution was concentrated and dried in vacuum to afford the title compound (1.2 g, 54%) as a yellow solid. FIA MS: MH+162.2, M−160.0.

reactant | 3-oxo-3-pyridin-4-yl-propionitrile | 13.7 mmol, 2.0 g | O=C(CC#N)C1=CC=NC=C1 | C8H6N2O
reactant | hydroxylamine hydrochloride | 10.8 mmol, 0.75 g | Cl.NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Pyridin-4-yl-isoxazol-5-ylamine | 1.2 g, 54% | N1=CC=C(C=C1)C1=NOC(=C1)N | C8H7N3O
